US06605617B2
Ethyl 2-[5-(2-thienyl)benzimidazol-2-yl]acetate
2-Nitro-4-(2-thienyl)phenylamine (1.0 eq) and 10% Pd/C (0.1 eq) were suspended in anhydrous EtOH at room temperature. The reaction flask was evacuated and subsequently filled with H2. The resulting mixture was allowed to stir under a hydrogen atmosphere for 3 hours. Ethyl 3-ethoxy-3-iminopropanoate hydrochloride (2.0 eq) was then added and the resulting mixture was heated at reflux for 12 hours. After this time, the solution was filtered through a plug of Celite, concentrated, dissolved in 50 ml of 2N HCl and washed with CH2Cl2. The aqueous layer was brought to pH 12 with concentrated NH4OH(aq) and extracted with CH2Cl2. The combined organic layers were dried with MgSO4 and concentrated to yield a brown oil which was purified by silica gel chromatography (5:95 MeOH:CH2Cl2) to provide a yellow solid. LC/MS m/z 287.1 (MH+), Rf 1.98 minutes.

reactant | 2-Nitro-4-(2-thienyl)phenylamine | 1.0 eq | [N+](=O)([O-])C1=C(C=CC(=C1)C=1SC=CC1)N | C10H8N2O2S
reactant | Ethyl 3-ethoxy-3-iminopropanoate hydrochloride | 2.0 eq | Cl.C(C)OC(CC(=O)OCC)=N
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 0.1 eq | [Pd] | Pd
product | Ethyl 2-[5-(2-thienyl)benzimidazol-2-yl]acetate | S1C(=CC=C1)C1=CC2=C(N=C(N2)CC(=O)OCC)C=C1 | C15H14N2O2S
